US08211930B2
(4S,5R)-5-(4H-benzo[d][1,3]dioxin-7-yl)-4-methyloxazolidin-2-one (I3a)
A mixture of (1R,2S)-2-amino-1-(4H-benzo[d][1,3]dioxin-7-yl)propan-1-ol hydrochloride (I3b) (120 mg, 0.49 mmol), DIEA (0.100 mL, 0.59 mmol) and CDI (90 mg, 0.56 mmol) in THF (2 mL) was stirred at room temperature for 2 hours. The reaction mixture was concentrated by evaporation, the residual material was partitioned between EtOAc and water, the organic phase was washed with 10% NaHSO4, dried over MgSO4, filtered and evaporated. The crude product was analysed by LC/MS and was considered pure enough for further analysis by NMR. Yield 66 mg (57%)

reactant | (1R,2S)-2-amino-1-(4H-benzo[d][1,3]dioxin-7-yl)propan-1-ol hydrochloride | 0.49 mmol, 120 mg | Cl.N[C@H]([C@H](O)C=1C=CC2=C(OCOC2)C1)C
reactant | DIEA | 0.59 mmol, 0.100 mL | CCN(C(C)C)C(C)C | C8H19N
reactant | CDI | 0.56 mmol, 90 mg | C1=CN(C=N1)C(=O)N2C=CN=C2 | C7H6N4O
solvent | THF | 2 mL | C1CCOC1 | C4H8O
product | (4S,5R)-5-(4H-benzo[d][1,3]dioxin-7-yl)-4-methyloxazolidin-2-one | O1COCC2=C1C=C(C=C2)[C@@H]2[C@@H](NC(O2)=O)C | C12H13NO4
